US07517889B2
Hydrochloric acid gas is bubbled through a solution of methoxyacetonitrile (26 g, 0.37 mol) in EtOH (22 mL) and diethyl ether (118 mL), which is chilled to −10° C. for twenty minutes. The reaction vessel is capped and stirred for 17 hours at ambient temperature. The mixture is cooled to −10° C. The solid that forms is collected by filtration, washed with diethyl ether and air dried to afford 2-methoxy-acetimidic acid ethyl ester hydrochloride (49.3 g, 87%) as a solid.

reactant | Hydrochloric acid | Cl | ClH
reactant | methoxyacetonitrile | 0.37 mol, 26 g | COCC#N | C3H5NO
reactant | EtOH | 22 mL | CCO | C2H6O
solvent | diethyl ether | 118 mL | C(C)OCC | C4H10O
product | 2-methoxy-acetimidic acid ethyl ester hydrochloride | 49.3 g, 87% | Cl.C(C)OC(COC)=N | InChI=1S/C5H11NO2.ClH/c1-3-8-5(6)4-7-2;/h6H,3-4H2,1-2H3;1H
